US05981559
A mixture of 5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-hydroxy-3-(6-methoxy-2-benzothiazolylmethoxy)benzanilide (301 mg, 0.48 mmol), potassium carbonate (135 mg, 0.98 mmol), ethyl bromoacetate (81 mg, 0.49 mmol) and dimethylformamide (5 ml) was stirred at room temperature for 12 hours. Water was added to the reaction solution and the product formed was extracted with ethyl acetate. The extract was washed with water and brine in that order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. Tetrahydrofuran (2 ml), methanol (1 ml) and 1 N sodium hydroxide were added to the resulting residue and the mixture was stirred at room temperature for 12 hours. The reaction solution was concentrated, and water was added to the resulting residue, and the mixture was adjusted to pH 3 with 10% citric acid aqueous solution. Thereafter, the solid material formed was collected by filtration and washed with acetonitrile to give 4-[3-(4-chlorophenylsulfonyl)propyl]-2-[3-[(6-methoxy-2-benzothiazolyl)methoxy]benzoylamino]phenoxyacetic acid (145 mg, 0.21 mmol, 44%).

reactant | 5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-hydroxy-3-(6-methoxy-2-benzothiazolylmethoxy)benzanilide | 0.48 mmol, 301 mg | ClC1=CC=C(C=C1)S(=O)(=O)CCCC=1C=CC(=C(NC(C2=CC(=CC=C2)OCC=2SC3=C(N2)C=CC(=C3)OC)=O)C1)O | C31H27ClN2O6S2
reactant | potassium carbonate | 0.98 mmol, 135 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.49 mmol, 81 mg | BrCC(=O)OCC | C4H7BrO2
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-[3-(4-chlorophenylsulfonyl)propyl]-2-[3-[(6-methoxy-2-benzothiazolyl)methoxy]benzoylamino]phenoxyacetic acid | 0.21 mmol, 145 mg, 44% | ClC1=CC=C(C=C1)S(=O)(=O)CCCC1=CC(=C(OCC(=O)O)C=C1)NC(C1=CC(=CC=C1)OCC=1SC2=C(N1)C=CC(=C2)OC)=O | C33H29ClN2O8S2
